US04008244
Preparation of Zinc Bis[spiro(cyclohexane-1,2'-oxazolidine)-3-carbodithioate]
Thirty-eight grams (0.50 mole) of carbon disulfide was added with stirring at 10° - 20° C to a mixture of 500 g. isopropanol and 50.5 g. (0.50 mole) triethylamine. To this solution was added 70.5 g. (0.50 mole) of spiro(cyclohexane-1,2'-oxazolidine) [preparation described by A. Cope and E. Hancock, J. Am. Chem. Soc. 64, 1503 (1942)] followed by 46.0 g. (0.25 mole) of anhydrous zinc acetate. The reaction mixture was stirred 4 hours at room temperature. After overnight standing, the precipitate was filtered to give 97.4 g. of the desired carbodithioate melting at 198° - 200° C (decomp.). A sample, dissolved in hot dimethylsulfoxide and precipitated by addition of methanol, melted at 212° - 213° C and had the following analysis: Found: C, 42.80; H, 5.41; N, 5.75; Zn, 12.90%. Calcd for C18H28N2O2S4Zn. C, 43.43; H, 5.63; N, 5.63; Zn, 13.15%.

reactant | carbon disulfide | 0.50 mole, Thirty-eight grams | C(=S)=S | CS2
reactant | triethylamine | 0.50 mole | C(C)N(CC)CC | C6H15N
reactant | spiro(cyclohexane-1,2'-oxazolidine) | 0.50 mole | O1C2(NCC1)CCCCC2 | C8H15NO
reactant | zinc acetate | 0.25 mole | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | isopropanol | C(C)(C)O | C3H8O
product | Zinc Bis[spiro(cyclohexane-1,2'-oxazolidine)-3-carbodithioate] | O1C2(NCC1)CC(CCC2)C(=S)[S-].O2C1(NCC2)CC(CCC1)C(=S)[S-].[Zn+2] | InChI=1S/2C9H15NOS2.Zn/c2*12-8(13)7-2-1-3-9(6-7)10-4-5-11-9;/h2*7,10H,1-6H2,(H,12,13);/q;;+2/p-2
